US08058444B2
4-Methylene-2-oxo-4H-pyrido[2,3-d][1,3]oxazine-1-carboxylic acid tert-butyl ester
1-(2-Amino-pyridin-3-yl)-ethanone (990 mg), di-tert-butyl dicarbonate (7.92 g), 4-dimethylaminopyridine (88.8 mg), triethylamine (4.95 mL) and tetrahydrofuran (16.5 mL) were stirred at room temperature for 24 hours. Silica gel was added to the reaction solution and the solvent was concentrated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (1.48 g).

reactant | 1-(2-Amino-pyridin-3-yl)-ethanone | 990 mg | NC1=NC=CC=C1C(C)=O | C7H8N2O
reactant | di-tert-butyl dicarbonate | 7.92 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 4.95 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 16.5 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 88.8 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Methylene-2-oxo-4H-pyrido[2,3-d][1,3]oxazine-1-carboxylic acid tert-butyl ester | 1.48 g | C(C)(C)(C)OC(=O)N1C(OC(C2=C1N=CC=C2)=C)=O | C13H14N2O4
